US04892873
[3-(1,2,4-Triazolo[4,3-b]pyridazin-6-yl)phenyl]carbamic acid, methyl ester
To a solution of 5.0 g of 6-[3-(aminophenyl]-1,2,4-triazolo[4,3-b]pyridazine in 1 liter of dichloromethane and 120 ml of methanol was added 4.5 ml of N,N-diisopropylethylamine diisopropylethylamine followed by 2 ml of methyl chloroformate. This mixture was stirred for 2.5 hours, then poured into 200 ml of saturated aqueous sodium bicarbonate and extracted with 150 ml portions of dichloroethane. The extracts were combined and treated as described in Example 1. The solid was recrystallized from dichloromethanemethanol-hexane giving 4.5 g of the desired product as tan crystals, mp 210°-212° C.

reactant | 3-(aminophenyl]-1,2,4-triazolo[4,3-b]pyridazine | NC1=C(C=CC=C1)C1=NN=C2N1N=CC=C2 | C11H9N5
reactant | N,N-diisopropylethylamine diisopropylethylamine | 4.5 ml | C(C)(C)N(CC)C(C)C.C(C)(C)N(C(C)C)CC | 2C8H19N
reactant | methyl chloroformate | 2 ml | ClC(=O)OC | C2H3ClO2
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1 liter | ClCCl | CH2Cl2
solvent | methanol | 120 ml | CO | CH4O
product | [3-(1,2,4-Triazolo[4,3-b]pyridazin-6-yl)phenyl]carbamic acid, methyl ester | N=1N=CN2N=C(C=CC21)C=2C=C(C=CC2)NC(OC)=O | C13H11N5O2
